US09107415B2
To a solution of 2-(2,6-dimethyl-4-prop-1-ynylphenyl)-3-methoxycyclopent-2-enone (0.193 g, 0.76 mmol) in acetone (2.0 ml) is added 2M hydrochloric acid (2.0 ml). The mixture is heated at 60°C. under microwave irradiation for 20 minutes, then distilled water and ethyl acetate are added and the phases separated. The aqueous phase is extracted with ethyl acetate (×3), and combined organic fractions are washed with brine, dried over magnesium sulfate, filtered and the filtrate concentrated in vacuo. The crude product is purified by flash column chromatography (ethyl acetate and isohexane as eluant) to afford 2-(2,6-dimethyl-4-prop-1-ynylphenyl)cyclopentane-1,3-dione.

reactant | 2-(2,6-dimethyl-4-prop-1-ynylphenyl)-3-methoxycyclopent-2-enone | 0.76 mmol, 0.193 g | CC1=C(C(=CC(=C1)C#CC)C)C=1C(CCC1OC)=O | C17H18O2
reactant | hydrochloric acid | 2M, 2.0 ml | Cl | ClH
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 2.0 ml | CC(=O)C | C3H6O
product | 2-(2,6-dimethyl-4-prop-1-ynylphenyl)cyclopentane-1,3-dione | CC1=C(C(=CC(=C1)C#CC)C)C1C(CCC1=O)=O | C16H16O2
